US07384961B2
trans-Dimethyl-(2-pyridin-3-yl-cyclohexylmethyl)amine hydrochloride
40 ml 96% strength sulfuric acid were added to 7.8 g dimethylaminomethyl-1-pyridin-3-yl-cyclohexanol hydrochloride, while cooling with ice. When the evolution of gas had ended, the mixture was stirred at room temperature for 45 minutes. The solution was subsequently poured on to approx. 400 g of crushed ice. It was then rendered alkaline by addition of sodium hydroxide lozenges, while cooling with ice, and the mixture was extracted 3× with a total of 600 ml ethyl acetate. The combined organic phases were dried over magnesium sulfate and evaporated to dryness on a rotary evaporator in vacuo at 50° C. 4.2 g of the title compound were obtained in this way.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | dimethylaminomethyl-1-pyridin-3-yl-cyclohexanol hydrochloride | 7.8 g | Cl.CN(C)CC1C(CCCC1)(O)C=1C=NC=CC1
reactant | sodium hydroxide | [OH-].[Na+]
product | trans-Dimethyl-(2-pyridin-3-yl-cyclohexylmethyl)amine hydrochloride | 4.2 g | Cl.CN(C[C@H]1[C@@H](CCCC1)C=1C=NC=CC1)C | InChI=1S/C14H22N2.ClH/c1-16(2)11-13-6-3-4-8-14(13)12-7-5-9-15-10-12;/h5,7,9-10,13-14H,3-4,6,8,11H2,1-2H3;1H/t13-,14-;/m0./s1
